US07713994B2
To a suspension or solution of carboxylic acid, in this case tiglic acid (0.11 g, 1.1 mmol) in anhydrous acetonitrile (3 mL) is added oxalyl chloride (neat, 100 μL, 1.1 mmol). The mixture is shaken at 65° C. for 30 minutes and then reduced to half volume under reduced pressure. The resulting acetonitrile solution is then added to a solution of (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione (65 mg, 0.11 mmol) and diisopropylethylamine (380 μL, 2.2 mmol) in tetrahydrofuran (3 mL) After stirring overnight at room temperature, the reaction mixture is concentrated to dryness under reduced pressure. Tetrabutylammonium fluoride solution (1.0 M, 2.0 mL, 2.0 mmol) is added and the mixture is shaken at 55° C. for 2 hours and then allowed to cool to room temperature. Following concentration, the residue is triturated with water and the resulting solid collected by filtration, washed with acetonitrile, and dried under house vacuum to give (2E)-N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]-2-methylbut-2-enamide (12 mg, 21%).

reactant | tiglic acid | 1.1 mmol, 0.11 g | C(\C(\C)=C\C)(=O)O | C5H8O2
reactant | oxalyl chloride | 1.1 mmol, 100 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione | 0.11 mmol, 65 mg | NC1=C(C=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H34IN3O3Si
reactant | diisopropylethylamine | 2.2 mmol, 380 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Tetrabutylammonium fluoride | 2.0 mmol, 1.0 M, 2.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (2E)-N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]-2-methylbut-2-enamide | 12 mg, 21% | OC1=C(C=CC(=C1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)NC(\C(=C\C)\C)=O | C22H20IN3O4
